US09353107B2
Step-iii: (S)-1-(4-(4-(3-(1-benzyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-benzyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (175 mg. 0.249 mmol) was alkylated using (S)-2-methyloxirane (27 mg, 0.498 mmol), DIPEA (129 mg, 0.996 mmol) and ethanol (5 mL) to get 100 mg (62.1% yield) of the titled compound. MS: m/z=647.2 (M+1).

reactant | 3-(1-benzyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.249 mmol, 175 mg | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCNCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C34H32N6O2S
reactant | (S)-2-methyloxirane | 0.498 mmol, 27 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 0.996 mmol, 129 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(4-(4-(3-(1-benzyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperazin-1-yl)propan-2-ol | 100 mg, 62.1% yield | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C[C@H](C)O)S(=O)(=O)C2=CC=C(C)C=C2 | C37H38N6O3S
